US07501421B2
Preparation of 4-[4-(1-Naphthylsulfanyl)benzoxazol-2-yl]piperazine-1-carboxylic acid benzyl ester
A mixture of 4-(4-iodobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester (0.80 g, 1.73 mmol), 1-naphthylthiol (0.276 g, 1.73 mmol), CuI (0.066 g, 0.35 mmol), ethylene glycol (0.214 g, 3.45 mmol), and K2CO3(0.477 g, 3.45 mmol) in isopropanol was heated at 90° C. overnight, cooled, diluted with 20% MeOH in CH2Cl2 and filtered through a pad of silica gel. The filtrated was concentrated and purified by chromatography with 1-3% MeOH in CH2Cl2 to provide the title compound (0.856 g, 93%), characterized by NMR and mass spectral analyses.

reactant | 4-(4-iodobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester | 1.73 mmol, 0.80 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C(=CC=C2)I | C19H18IN3O3
reactant | 1-naphthylthiol | 1.73 mmol, 0.276 g | C1=CC=C2C(=C1)C=CC=C2S | C10H8S
reactant | ethylene glycol | 3.45 mmol, 0.214 g | C(CO)O | C2H6O2
reactant | K2CO3 | 3.45 mmol, 0.477 g | C(=O)([O-])[O-].[K+].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.35 mmol, 0.066 g | [Cu]I
product | 4-[4-(1-Naphthylsulfanyl)benzoxazol-2-yl]piperazine-1-carboxylic acid benzyl ester | 0.856 g, 93% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C(=CC=C2)SC2=CC=CC1=CC=CC=C21 | C29H25N3O3S
